US08138187B2
N-[2-(1H-Indol-3-yl)-ethyl]-nicotinamide (Ind-106)
Tryptamine (640 mg, 4.0 mmol) was initially introduced into abs. THF (30 ml). TEA (596 μl, 4.3 mmol) and nicotinic acid chloride hydrochloride (770 mg, 4.3 mmol) was then added and the mixture was stirred at RT for 5 h. The mixture was concentrated to dryness i. vac. The residue was taken up in EA (20 ml) and the mixture was washed with saturated NaHCO3 solution (2×20 ml) and with NaCl solution (2×20 ml). The organic phase was dried over Na2SO4 and concentrated i. vac. Yield: 482 mg (45%)

reactant | Tryptamine | 4.0 mmol, 640 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | nicotinic acid chloride hydrochloride | 4.3 mmol, 770 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(1H-Indol-3-yl)-ethyl]-nicotinamide | N1C=C(C2=CC=CC=C12)CCNC(C1=CN=CC=C1)=O | C16H15N3O
